US06657062B1
Preparation of 1-Benzyl-4-(4-fluorophenyl)-1,2,5,6-tetrahydro-pyridine Tosilate
After weighing 80 g (0.28 mol) of 1-benzyl-4-(4-fluorophenyl)-4-hydroxypiperidine and 69.0 g (0.364 mol) of p-toluenesulfonic acid monohydrate to 400 ml of chlorobenzene under stirring, the reaction mixture is boiled under reflux for 3 hours while distilling out water introduced as crystal water and the water formed in the reaction. After termination of the reaction, 100 ml of chlorobenzene are additionally distilled out under atmospheric pressure. After cooling the mixture obtained to 0° C., the precipitated title product is filtered, twice washed with 10 ml of cold acetone each and dried on the air to give a yield of 90.5 g (73%), m.p.: 180-182° C.

reactant | 1-benzyl-4-(4-fluorophenyl)-4-hydroxypiperidine | 0.28 mol, 80 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)F | C18H20FNO
reactant | p-toluenesulfonic acid monohydrate | 0.364 mol, 69.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 400 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-Benzyl-4-(4-fluorophenyl)-1,2,5,6-tetrahydro-pyridine | C(C1=CC=CC=C1)N1CC=C(CC1)C1=CC=C(C=C1)F | C18H18FN
